US07718693B2
Sodium nitrite (0.172 g, 2.5 mmol) was added to a stirred solution of 2-chloro-6-fluoro-3-methyl-phenylamine (0.400 g, 2.5 mmol) in water (20 ml) and 37% aqueous hydrogen chloride (5 ml) at −5° C. The mixture was stirred at −5° C. for 5 minutes and then added in one pot to a solution of copper (I) chloride (0.742 g, 7.5 mmol) in 37% aqueous hydrogen chloride (5 ml) whilst maintaining the temperature at −5 to 0° C. The reaction mixture was heated to 38° C. and stirred for 1 hr then the mixture was cooled and diethyl ether (20 ml) was added. The organic phase was separated and washed with 1N aqueous hydrogen chloride and then with water. The organic layer was then dried over sodium sulphate and concentrated in vacuo. The crude residue was purified by flash silica column chromatography, eluting with petroleum ether, to give 2,3-dichloro-1-fluoro-4-methylbenzene (0.090 g, 0.5 mmol) as a white solid.

reactant | Sodium nitrite | 2.5 mmol, 0.172 g | N(=O)[O-].[Na+]
reactant | 2-chloro-6-fluoro-3-methyl-phenylamine | 2.5 mmol, 0.400 g | ClC1=C(C(=CC=C1C)F)N | C7H7ClFN
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
reactant | hydrogen chloride | 5 ml | Cl | ClH
reactant | hydrogen chloride | 5 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
catalyst | copper (I) chloride | 7.5 mmol, 0.742 g | [Cu]Cl
product | 2,3-dichloro-1-fluoro-4-methylbenzene | 0.5 mmol, 0.090 g | ClC1=C(C=CC(=C1Cl)C)F | C7H5Cl2F
